US03966736
In the manner given in Example 1, 8,9-dimethyl-6,11-dihydro-11-[[4-(2-hydroxyethyl)piperazino]acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one is reacted with phosphorus pentasulfide in pyridine to give 8,9-dimethyl-6,11-dihydro-11-[[4-(2-hydroxyethyl)piperazino]acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione.

reactant | 8,9-dimethyl-6,11-dihydro-11-[[4-(2-hydroxyethyl)piperazino]acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | CC=1C(=CC2=C(NC(C3=C(N2C(CN2CCN(CC2)CCO)=O)N=CC=C3)=O)C1)C | C22H27N5O3
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 8,9-dimethyl-6,11-dihydro-11-[[4-(2-hydroxyethyl)piperazino]acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione | CC=1C(=CC2=C(NC(C3=C(N2C(CN2CCN(CC2)CCO)=O)N=CC=C3)=S)C1)C | C22H27N5O2S
